US04014677
17.1 g of 2-chloro-4-sec. butylamino-5-nitro-6-methyl-pyrimidine (0.07 mole) are dissolved in 200 ml of methanol. To this solution is added a solution of 8.1 g of sodium methylate (0.15 mole) in 100 ml of methanol and the mixture is boiled overnight at 100° C bath temperature. After it has been cooled, the solution is evaporated and the resultant red substance is treated with ether and then filtered over Hyflo. The filter residue is washed 5 times with ether and the combined ethereal extracts are then evaporated to yield 12.3 g of 2-methoxy-4-sec. butylamino-5nitro-6-methylpyrimidine which boils at 110° C at 0.001 Torr (=73% yield).

reactant | 2-chloro-4-sec. butylamino-5-nitro-6-methyl-pyrimidine | 0.07 mole, 17.1 g | ClC1=NC(=C(C(=N1)NC(C)CC)[N+](=O)[O-])C | C9H13ClN4O2
reactant | sodium methylate | 0.15 mole, 8.1 g | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-methoxy-4-sec. butylamino-5nitro-6-methylpyrimidine | 12.3 g, 73% yield | COC1=NC(=C(C(=N1)NC(C)CC)[N+](=O)[O-])C | C10H16N4O3
